US07723333B2
4-{[2-(3-Chloro-4-methoxyphenyl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and [2-(3-chloro-4-methoxyphenyl)ethyl]amine in a similar manner as described for Example 24. 1H NMR (500 MHz DMSO-d6): δ 7.55-7.47 (m, 5H), 7.34 (t, 1H), 6.94 (d, 1H), 6.65 (dd, 1H), 6.61 (d, 1H), 4.32 (qt, 1H), 3.78 (s, 3H), 3.03-2.96 (m, 2H), 2.43-2.37 (m, 2H), 1.46 (d, 6H); 13C NMR (125 MHz DMSO-d6): δ 158.7, 153.7, 136.1, 132.4, 131.9, 130.3, 129.4, 128.8, 126.1, 121.3, 113.3, 105.0, 56.7, 47.3, 45.0, 34.4, 20.5; Mass spectrum M+H+ 435

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | [2-(3-chloro-4-methoxyphenyl)ethyl]amine | ClC=1C=C(C=CC1OC)CCN | C9H12ClNO
product | 4-{[2-(3-Chloro-4-methoxyphenyl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C=C(C=CC1OC)CCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C21H23ClN2O4S
